US07361765B2
treating the 6-{[(1S,4S)-4-(2,5-dimethyl-1H-pyrrol-1-yl)-1-isopropylcyclopent-2-en-1-yl]carbonyl}-3-(trifluoromethyl)-5,6,7,8-tetrahydro-1,6-naphthyridine with hydroxylamine to form (1S,4S)-4-isopropyl-4-{[3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridin-6(5H)-yl]carbonyl}cyclopent-2-en-1-amine; and

reactant | 6-{[(1S,4S)-4-(2,5-dimethyl-1H-pyrrol-1-yl)-1-isopropylcyclopent-2-en-1-yl]carbonyl}-3-(trifluoromethyl)-5,6,7,8-tetrahydro-1,6-naphthyridine | CC=1N(C(=CC1)C)[C@@H]1C=C[C@](C1)(C(C)C)C(=O)N1CC=2C=C(C=NC2CC1)C(F)(F)F | C24H28F3N3O
reactant | hydroxylamine | NO | H3NO
product | (1S,4S)-4-isopropyl-4-{[3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridin-6(5H)-yl]carbonyl}cyclopent-2-en-1-amine | C(C)(C)[C@@]1(C=C[C@H](C1)N)C(=O)N1CC=2C=C(C=NC2CC1)C(F)(F)F | C18H22F3N3O
